US04616014
6N-Hydrochloric acid (1 drop) was added to a stirred solution of 5-methyl-3-(1-methylhydrazino)-6-phenyl-1,2,4-triazine (0.71 g) and 4-cyanobenzaldehyde (0.44 g) in methanol (5 ml) at room temperature and then the stirring was continued for 5 minutes. The mixture was evaporated under reduced pressure, the residue was triturated with diethyl ether, and the precipitates were collected by filtration to give 3-[2-(4-cyanobenzylidene)-1-methylhydrazino]-5-methyl-6phenyl-1,2,4-triazine (0.95 g).

reactant | 5-methyl-3-(1-methylhydrazino)-6-phenyl-1,2,4-triazine | 0.71 g | CC=1N=C(N=NC1C1=CC=CC=C1)N(N)C | C11H13N5
reactant | 4-cyanobenzaldehyde | 0.44 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
catalyst | Hydrochloric acid | 1 drop | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 3-[2-(4-cyanobenzylidene)-1-methylhydrazino]-5-methyl-6phenyl-1,2,4-triazine | 0.95 g | C(#N)C1=CC=C(C=NN(C)C=2N=NC(=C(N2)C)C2=CC=CC=C2)C=C1 | C19H16N6
